* Z:\home\nailsonchagas\Downloads\EEG\canal\canal_com_fonte.asc
XU1 EletrodoA EletrodoB V+ V- InAmp 0 N013 N015 INA823
R3 0 EletrodoA 100k
R4 0 EletrodoB 100k
C1 V+ 0 1µ
C2 V- 0 1µ
R1 N013 N015 1.01k
V1 EletrodoA EletrodoB SINE(0 800u 100) AC 1
XU2 N012 HP150m V+ V- HP150m LT1112
R2 N012 0 107k
C3 N012 InAmp 10µ
R20 N008 N007 10k
R21 N007 HP150m 10k
R22 N003 N008 43.2
C11 N004 N003 1µ
R23 N009 N004 162k
C12 N009 HP150m 1µ
R24 Notch60 N003 86.6
R25 N009 0 7.87Meg
XU10 0 N007 V+ V- N008 LT1124
XU11 0 N003 V+ V- N004 LT1124
XU12 N009 N010 V+ V- Notch60 LT1124
R26 Notch60 N010 1k
R27 N010 0 1k
XU4 0 N006 V+ V- LP160 LT1124
C6 LP160 N006 100n
R11 N006 N005 715
C7 N005 0 1.62µ
R12 N005 Notch60 499
R13 LP160 N005 5.23k
XU15 N014 N011 V+ V- offset LT1677
R40 N014 V_2+ 1k
R41 N014 LP160 1k
R37 offset N011 1k
R38 N011 0 1k
XU3 0 V+ N002 LT1117-3.3
C9 V+ 0 100µ
C15 N002 0 10µ
V2 N002 V- 9
XU8 V- 0 N001 LT1117-3.3
C18 0 V- 1000µ
C19 N001 V- 10µ
R7 V+ V_2+ 10k
R16 V_2+ 0 10k
* K = 1 + (100k / Rg) p/ K = 100.0099 Rg = 1.01k
* AMPLIFICADOR DE INSTRUMENTAÇÃO
.tran 0 0.8 0.7
* High-Pass; 1st order Bessel; 150mHz passband; \nOptimize: Noise; +Vs: 3.3; -Vs: -3.3; GBW comp
* Analog Filter Wizard
* Bandstop Filter- 2nd order Bessel  Passband:\nAo: 1.000 V/V, Fc: 60 Hz, BWp: 1 Hz, Rp: 1.000 dB\nStopband:\nBWs: 100 mHz, Asb: -40.00 dB, Gain 2V/V
* TI Filter Design Tool
* Lowpass Filter- 2nd order Bessel\nPassband: Ao: 10.60 V/V, Fp: 160 Hz, Rp: 1.000 dB\nStopband: Fs: 1.6 kHz, Asb: -40.00 dB\nMultiple feedback - TI filter design tool
* Offset de 1.65V para remover a parte negativa
* Fonte simétrica +-3.3V\nAlimentado por bateria de 9V
* FONTE
* CANAL
.lib INA823.sub
.lib LT1117.lib
.lib LTC.lib
.backanno
.end
